US03998834
A mixture of 7 parts of 4-(methoxymethyl)-N-phenyl-1-(phenylmethyl)-4-piperidinamine and 15 parts of propanoic acid anhydride is stirred and refluxed for 6 hours. After cooling, the reaction mixture is poured onto ice-water and alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is converted into the ethanedioate salt in 1,1'-oxybisethane and 2-propanol. The sticky salt is triturated in 2-propanone. The product is filtered off and crystallized from 96 parts of acetonitrile, yielding N-[4-(methoxymethyl)-1-(phenylmethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate; mp. 191.2° C.

reactant | 4-(methoxymethyl)-N-phenyl-1-(phenylmethyl)-4-piperidinamine | COCC1(CCN(CC1)CC1=CC=CC=C1)NC1=CC=CC=C1 | C20H26N2O
reactant | propanoic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(methoxymethyl)-1-(phenylmethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate | C(C(=O)O)(=O)O.COCC1(CCN(CC1)CC1=CC=CC=C1)N(C(CC)=O)C1=CC=CC=C1 | InChI=1S/C23H30N2O2.C2H2O4/c1-3-22(26)25(21-12-8-5-9-13-21)23(19-27-2)14-16-24(17-15-23)18-20-10-6-4-7-11-20;3-1(4)2(5)6/h4-13H,3,14-19H2,1-2H3;(H,3,4)(H,5,6)
